US06326369B1
4,5,6,7-Tetramethoxy-2-[4-[4-(morpholinocarbonyl)phenoxy]butyl]indan
A mixture of 4-[4-(4,5,6,7-tetramethoxyindan-2-yl)butoxy]benzoic acid (3.50 g), morpholine (1.42 ml), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (3.12 g), 1-hydroxybenzotriazole monohydrate (2.45 g), and triethylamine (2.30 ml) in THF (70 ml) was stirred at room temperature for 12 hr. The reaction mixture was diluted with water and extracted with ethyl acetate. The organic layer was washed with 1N hydrochloric acid, water, saturated aqueous sodium bicarbonate, water, and saturated aqueous sodium chloride and dried. Removal of the solvent in vacuo gave the entitled compound (4.00 g).

reactant | 4-[4-(4,5,6,7-tetramethoxyindan-2-yl)butoxy]benzoic acid | 3.50 g | COC1=C2CC(CC2=C(C(=C1OC)OC)OC)CCCCOC1=CC=C(C(=O)O)C=C1 | C24H30O7
reactant | morpholine | 1.42 ml | N1CCOCC1 | C4H9NO
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 3.12 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole monohydrate | 2.45 g | O.ON1N=NC2=C1C=CC=C2
solvent | THF | 70 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | triethylamine | 2.30 ml | C(C)N(CC)CC | C6H15N
product | 4,5,6,7-Tetramethoxy-2-[4-[4-(morpholinocarbonyl)phenoxy]butyl]indan | 4.00 g | COC1=C2CC(CC2=C(C(=C1OC)OC)OC)CCCCOC1=CC=C(C=C1)C(=O)N1CCOCC1 | C28H37NO7
